US07084178B2
cis-2-[(4-Chlorobenzenesulfonyl)-(4-trifluoromethyl-benzyl)-amino]-cycloheptanecarboxylic acid amide.
The titled compound (127 mg) was prepared in 58% yield from cis-2-(4-chlorobenzenesulfonylamino)-cycloheptanecarboxylic acid amide (150 mg, 0.45 mmol) and 1-bromomethyl-4-trifluoromethyl-benzene according to the N-alkylation procedure described in Example 11: 1H NMR (DMSO-d6) δ 7.80 (m, 2 H, J=8.0 Hz), 7.62 (m, 4 H), 7.52 (d, 2 H, J=8.0 Hz), 7.35 (s br, 1 H), 6.70 (s br, 1 H), 4.61 (AB2,2 H,Δv=20,Jab=104 Hz), 3.98 (m, 1 H), 2.80 (m, 1 H), 2.29 (m, 1 H), 1.74 (m, 2 H), 1.43 (m, 5 H), 1.22 (m, 2 H); MS m/e 511.05 (M+Na)+.

reactant | cis-2-(4-chlorobenzenesulfonylamino)-cycloheptanecarboxylic acid amide | 0.45 mmol, 150 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CCCCC1)C(=O)N | C14H19ClN2O3S
reactant | 1-bromomethyl-4-trifluoromethyl-benzene | BrCC1=CC=C(C=C1)C(F)(F)F | C8H6BrF3
product | cis-2-[(4-Chlorobenzenesulfonyl)-(4-trifluoromethyl-benzyl)-amino]-cycloheptanecarboxylic acid amide | 127 mg, 58% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H]1[C@@H](CCCCC1)C(=O)N)CC1=CC=C(C=C1)C(F)(F)F | C22H24ClF3N2O3S
